US08471005B2
{4-[2-(4-Methyl-piperazin-1-yl)-ethoxy]-phenyl}-(7-pyridin-3-yl-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-amine
Into a microwave vial, 2-Methanesulfinyl-7-pyridin-3-yl-pyrrolo[2,1-f][1,2,4]triazine (0.104 g, 0.000404 mol), 4-[2-(4-Methyl-piperazin-1-yl)-ethoxy]-phenylamine (0.209 g, 0.000888 mol), 1-Methoxy-2-propanol (0.971 mL, 0.00993 mol) and N,N-Diisopropylethylamine (0.155 mL, 0.000888 mol) were added. The reaction was microwaved on 300 watts, 170° C. for 50 minutes. The solvent was removed under vacuum. The desired product was isolated via ISCO column chromatography with DCM and methanol as eluant (0 to 12% methanol). The collected fractions afforded {4-[2-(4-Methyl-piperazin-1-yl)-ethoxy]-phenyl}-(7-pyridin-3-yl-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-amine as a yellow solid (28 mg, 16%). MP 107-110° C. LCMS (E/I+) 430.8 (M+H). NMR 1H (DSMO-d6)-9.42 (d, 1H, J=2.00), 9.39 (s, 1H), 9.04 (s, 1H), 8.66 (d, 1H, J=7.76 Hz), 8.61 (d, 1H, J=6.56 Hz), 7.60-7.70 (m, 3H), 7.32 (d, 1H, J=4.77 Hz), 6.98 (d, 1H, J=4.76 Hz), 6.95 (d, 2H, J=9.00 Hz), 4.16 (t, 2H, J=5.26 Hz), 2.40-3.50 (m, 13H).

reactant | 2-Methanesulfinyl-7-pyridin-3-yl-pyrrolo[2,1-f][1,2,4]triazine | 0.000404 mol, 0.104 g | CS(=O)C1=NN2C(C=N1)=CC=C2C=2C=NC=CC2 | C12H10N4OS
reactant | 4-[2-(4-Methyl-piperazin-1-yl)-ethoxy]-phenylamine | 0.000888 mol, 0.209 g | CN1CCN(CC1)CCOC1=CC=C(C=C1)N | C13H21N3O
reactant | 1-Methoxy-2-propanol | 0.00993 mol, 0.971 mL | COCC(C)O | C4H10O2
reactant | N,N-Diisopropylethylamine | 0.000888 mol, 0.155 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | {4-[2-(4-Methyl-piperazin-1-yl)-ethoxy]-phenyl}-(7-pyridin-3-yl-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-amine | CN1CCN(CC1)CCOC1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2C=2C=NC=CC2 | C24H27N7O
